US07691843B2
To a solution of (benzhydrylamino)acetic acid tert-buyl ester (6.1 g, 20.5 mmol, 1 eq.) in dry acetone (75 mL) at −50° C. to −60° C. was added DIEA (3.58 mL, 20.5 mmol, 1 eq.) followed by a solution of 1-bromobuta-2-none (2.33 mL, 20.5 mmol, 1 eq.) in acetone (75 mL). The reaction mixture was allowed to warm to room temperature and then heated to reflux for 2 h. The reaction was cooled and then added additional 5% (by weight) of DIEA and 1-bromobuta-2-none. The resulting mixture was continued to be heated at reflux overnight. The reaction mixture was cooled to room temperature and added Et2O. The precipitated solid was filtered off and washed with Et2O. The combined organic layer was washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to afford [benzhydryl-(2-oxobutyl)amino]acetic acid tert-butyl ester in 98% yield (crude product), which was used without further purification. ESMS: m/z 368.4 [M+H].

reactant | (benzhydrylamino)acetic acid tert-buyl ester | 20.5 mmol, 6.1 g, 1 eq. | C(C)(C)(C)OC(CNC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H23NO2
reactant | DIEA | 20.5 mmol, 3.58 mL, 1 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | Et2O | CCOCC | C4H10O
reactant | acetone | 75 mL | CC(=O)C | C3H6O
reactant | acetone | 75 mL | CC(=O)C | C3H6O
product | [benzhydryl-(2-oxobutyl)amino]acetic acid tert-butyl ester | 98% yield | C(C)(C)(C)OC(CN(CC(CC)=O)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H29NO3
